US09283224B2
Step 3: 5-Chloro-2-(propan-2-yl)aniline
A solution of hydrazine hydrate (1.7 mL, 35.1 mmol) in methanol (12 mL) was added drop wise to a solution of 4-chloro-2-nitro-1-(propan-2-yl)benzene (1.75 g, 8.8 mmol) in methanol (40 mL), in the presence of iron (III) chloride (146 mg, 0.9 mmol) and activated charcoal (146 mg) and the reaction mixture was stirred under reflux for 7 h. The solid was filtered over celite, the filtrate concentrated and purified by flash chromatography (hexane/EtOAc 9/1) to obtain the title compound as a light-pink oil (1.4 g, 94%).

reactant | hydrazine hydrate | 35.1 mmol, 1.7 mL | O.NN
reactant | 4-chloro-2-nitro-1-(propan-2-yl)benzene | 8.8 mmol, 1.75 g | ClC1=CC(=C(C=C1)C(C)C)[N+](=O)[O-] | C9H10ClNO2
reactant | charcoal | 146 mg | C | CH4
solvent | methanol | 12 mL | CO | CH4O
solvent | methanol | 40 mL | CO | CH4O
catalyst | iron (III) chloride | 0.9 mmol, 146 mg | [Fe](Cl)(Cl)Cl
product | 5-Chloro-2-(propan-2-yl)aniline | 1.4 g, 94% | ClC=1C=CC(=C(N)C1)C(C)C | C9H12ClN
